US07642264B2
2-(3-Bromo-phenyl)-4-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-6-trifluoromethyl-pyrimidine (example A.39) (0.85 g, 2.0 mmol) and commercially available 3-bromo-benzene-boronic acid (0.44 g, 2.19 mmol) according to the general procedure IVb. Obtained as an off-white solid (0.97 g, 80%). MS (EI) 544.1 [(M)+]; mp 122° C.

reactant | 2-chloro-4-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-6-trifluoromethyl-pyrimidine | 2.0 mmol, 0.85 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)OCC(F)(F)F)C(F)(F)F | C14H6ClF9N2O
reactant | 3-bromo-benzene-boronic acid | 2.19 mmol, 0.44 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-6-trifluoromethyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)OCC(F)(F)F)C(F)(F)F | C20H10BrF9N2O
